US08222269B2
Step 3: 1-(3-Chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-methyl-N-phenylmethanesulfonamide (Compound 5-3)
Sodium tert-butoxide (47.4 g, 493 mmol) was added in one portion to a 1 L flask containing methyl {[methyl(phenyl)amino]sulfonyl}acetate (40.0 g, 164 mmol) and dissolved in dioxane (658 ml) at 0° C. After 15 min., 7-bromo-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (52.7 g, 164 mmol) was added followed by palladium(II) acetate (1.846 g, 8.22 mmol) and tri-t-butylphosphonium tetrafluoroborate (7.16 g, 24.66 mmol). The resulting suspension was degassed by sparging with nitrogen for 30 min. Then, the mixture was heated to 90° C. in a pre-warmed bath and left to stir for 1 h. Then, the reaction flask was cooled to 50° C., 1M NaOH (500 mL) was added and the solution was stirred for 1 h. Then, the solution was diluted with saturated aqueous sodium hydrogen carbonate (800 mL) and extracted with dichloromethane (3×500 mL). The combined organics were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography (EtOAc/Hexanes gradient) to afford the title compound as a pale yellow solid. 1H NMR (600 MHz, DMSO-D6) δ 8.99 (d, 1H); 8.47 (m, 1H); 8.17 (s, 1H); 7.81 (s, 2H); 7.47 (d, 1H); 7.32 (m, 5H); 7.21 (m, 1H); 4.75 (s, 2H); 3.24 (s, 3H). LRMS (APCI) calculated for C22H18ClN2O3S [M+H]+, 425.1. found 425.0.

reactant | Sodium tert-butoxide | 493 mmol, 47.4 g | CC(C)([O-])C.[Na+]
reactant | methyl {[methyl(phenyl)amino]sulfonyl}acetate | 164 mmol, 40.0 g | CN(S(=O)(=O)CC(=O)OC)C1=CC=CC=C1 | C10H13NO4S
reactant | 7-bromo-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 164 mmol, 52.7 g | BrC=1C=CC2=C(C(C=3C(=NC=C(C3)Cl)C=C2)=O)C1 | C14H7BrClNO
reactant | tri-t-butylphosphonium tetrafluoroborate | 24.66 mmol, 7.16 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | dioxane | 658 ml | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 8.22 mmol, 1.846 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(3-Chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-methyl-N-phenylmethanesulfonamide | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)CS(=O)(=O)N(C1=CC=CC=C1)C | C22H17ClN2O3S
